US08536214B2
b) (S)—N-(5-((1-ethyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide
Tris(dibenzylideneacetone)dipalladium (0) chloroform adduct (0.014 mmol, 14.17 mg) was dissolved in THF (1 mL) and triphenylphosphine (0.027 mmol, 7.18 mg) added. The mixture was stirred at room temperature for 30 m before addition of N-bromosuccinimide (0.027 mmol, 4.87 mg). Stirring was continued for a further 30 min before addition of (S)—N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (0.137 mmol, 50 mg) in 500 μL THF, 5-(chloromethyl)-1-ethyl-3-(trifluoromethyl)-1H-pyrazole (0.137 mmol, 29.1 mg) in 500 μL THF and 2M Na2CO3 solution (2 mL). The mixture was heated to 100° C. for 10 min in the microwave before the mixture was filtered through a filter tip and concentrated to dryness. The residue was partitioned between DCM/Water and the organic phase collected and dried using a hydrophobic filter. TLC (1:1 EtOAc/Heptane) shows complex mix (see in process)—difficulty to assign product spot. The residue was purified using silica chromatography (20% EtOAc/Heptane) to give a residue which was further purified on basic HPLC to give the desired compound (3.6 mg, 8.7 μmol, 6.3%). MS (ESI): m/z [M−H]− 414.4.

reactant | triphenylphosphine | 0.027 mmol, 7.18 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.027 mmol, 4.87 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (S)—N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 0.137 mmol, 50 mg | CC1(OB(OC1(C)C)C=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C | C18H28BNO4S
reactant | 5-(chloromethyl)-1-ethyl-3-(trifluoromethyl)-1H-pyrazole | 0.137 mmol, 29.1 mg | ClCC1=CC(=NN1CC)C(F)(F)F | C7H8ClF3N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 500 μL | C1CCOC1 | C4H8O
solvent | THF | 500 μL | C1CCOC1 | C4H8O
solvent | Na2CO3 | 2M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Tris(dibenzylideneacetone)dipalladium (0) chloroform adduct | 0.014 mmol, 14.17 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | (S)—N-(5-((1-ethyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 8.7 μmol, 3.6 mg, 6.3% | C(C)N1N=C(C=C1CC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C(F)(F)F | C19H24F3N3O2S
